US05342845
(2) Synthesis of ethyl 3-(4-methoxyphenyl)-3-(N-methyl-N-phenylhydrazono)propionate
In 60 ml of acetic acid were dissolved 15 g of ethyl p-methoxybenzoylacetate and 8.25 g of 1-methyl-1-phenylhydrazine and the resulting solution was stirred at room temperature for 12 hours. The reaction mixture was poured into iced water and extracted with ethyl acetate. The extract was washed with aqueous solution of sodium hydrogen carbonate and water in that order, dried over anhydrous magnesium sulfate and concentrated to provide 21.8 g of the desired compound as a yellow oil.

reactant | ethyl p-methoxybenzoylacetate | 15 g | COC1=CC=C(C(=O)CC(=O)OCC)C=C1 | C12H14O4
reactant | 1-methyl-1-phenylhydrazine | 8.25 g | CN(N)C1=CC=CC=C1 | C7H10N2
reactant | water | O | H2O
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | ethyl 3-(4-methoxyphenyl)-3-(N-methyl-N-phenylhydrazono)propionate | 21.8 g | COC1=CC=C(C=C1)C(CC(=O)OCC)=NN(C1=CC=CC=C1)C | C19H22N2O3
